US07153863B2
A solution of 7-chloro-3-(2-fluoropyridin-4-yl)-2-propylpyrazolo[1,5-a]pyridine (41 mg, 0.14 mmol) in cyclopentylamine (5 mL) was heated in a sealed vessel at 150° C. for 18 h. The mixture was cooled to room temperature and concentrated in vacuo and the residue was purified by flash chromatography on silica gel (2:1 hexane-ethyl acetate) to give N-cyclopentyl-3-[2-(cyclopentylamino)pyridin-4-yl]-2-propylpyrazolo[1,5-a]pyridin-7-amine (44 mg, 77%) as a yellow solid. 1H NMR (CDCl3) δ 8.10 (d, 1H), 7.18 (t, 1H), 7.00 (d, 1H), 6.73 (d, 1H), 6.52 (s, 1H), 5.97–5.91 (m, 2H), 5.07 (m, 1H), 4.00 (m, 2H), 2.95 (t, 2H), 2.18–2.05 (m, 4H), 1.87–1.57 (m, 14H), 1.02 (t, 3H); MS m/z 404 (M+1).

reactant | 7-chloro-3-(2-fluoropyridin-4-yl)-2-propylpyrazolo[1,5-a]pyridine | 0.14 mmol, 41 mg | ClC1=CC=CC=2N1N=C(C2C2=CC(=NC=C2)F)CCC | C15H13ClFN3
reactant | cyclopentylamine | 5 mL | C1(CCCC1)N | C5H11N
product | N-cyclopentyl-3-[2-(cyclopentylamino)pyridin-4-yl]-2-propylpyrazolo[1,5-a]pyridin-7-amine | 44 mg, 77% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=CC(=NC=C2)NC2CCCC2)CCC | C25H33N5
